US08383628B2
To a solution of 5-hydroxypyridine-2-carboxylic acid (0.103 g, 0.74 mmol) in dichloromethane was added diisopropylethylamine (0.279 mL, 1.6 mmol), followed by 1-hydroxybenzotriazole monohydrate (0.012 g, 0.8 mmol) and EDCl (0.153 g, 0.8 mmol). The resulting mixture was stirred for 15 minutes and 3-phenyl-1-propylamine (0.108 g, 0.8 mmol) was added. After stirring for 22 h, the reaction mixture was diluted with dichloromethane (80 mL), washed with water, dried over anhydrous Na2SO4 and concentrated in vacuo. Purification by column chromatography afforded 5-hydroxypyridine-2-carboxylic acid (3-phenylpropyl)amide as white crystals (0.116 g, 61% yield). MS (ES+) m/z 257.2 (M+1).

reactant | 5-hydroxypyridine-2-carboxylic acid | 0.74 mmol, 0.103 g | OC=1C=CC(=NC1)C(=O)O | C6H5NO3
reactant | diisopropylethylamine | 1.6 mmol, 0.279 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-hydroxybenzotriazole monohydrate | 0.8 mmol, 0.012 g | O.ON1N=NC2=C1C=CC=C2
reactant | EDCl | 0.8 mmol, 0.153 g | CCN=C=NCCCN(C)C.Cl
reactant | 3-phenyl-1-propylamine | 0.8 mmol, 0.108 g | C1(=CC=CC=C1)CCCN | C9H13N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 5-hydroxypyridine-2-carboxylic acid (3-phenylpropyl)amide | 0.116 g, 61% yield | C1(=CC=CC=C1)CCCNC(=O)C1=NC=C(C=C1)O | C15H16N2O2
